US04016148
9.6 g (0.03 mol) of the N-hydroxysuccinimide ester of N-benzyloxycarbonyl-L-alanine and 5.26 g (0.03 mol) of dimethyl aminomethylphosphonate hydrochloride were stirred in 65 ml of dry dimethylformamide. While stirring and maintaining the temperature below 20° C, there were added dropwise 4.2 ml of dry triethylamine. The mixture was then stirred overnight at room temperature. The triethylamine hydrochloride was filtered off and washed with a little dimethylformamide. The filtrate was evaporated under an oil-pump vacuum and at a bath temperature below 40° C. The residual oil was treated with 40 ml of water and the resulting mixture extracted with four 40 ml portions of chloroform. The combined organic phases were washed with a small volume of a strong potassium carbonate solution and then dried over sodium sulphate. The sodium sulphate was filtered off and the filtrate evaporated first under a water-pump vacuum and then under an oil-pump vacuum. There were obtained 11.0 g of dimethyl [(N-benzyloxycarbonyl-L-alanyl)amino]-methylphosphonate as an oil with the expected N.M.R. spectrum.

reactant | N-benzyloxycarbonyl-L-alanine | C(C1=CC=CC=C1)OC(=O)N[C@@H](C)C(=O)O | C11H13NO4
reactant | dimethyl aminomethylphosphonate hydrochloride | 0.03 mol, 5.26 g | Cl.NCP(OC)(OC)=O
reactant | triethylamine | 4.2 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 65 ml | CN(C=O)C | C3H7NO
product | dimethyl [(N-benzyloxycarbonyl-L-alanyl)amino]-methylphosphonate | 11.0 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](C)C(=O)NCP(OC)(OC)=O | C14H21N2O6P
